US04072696
1.5 G. of 1-(3-methoxycarbonyl-2-thioureido)-4-methylsulfinyl-2-nitrobenzene is treated in a boiling mixture of 240 ml. methanol and 60 ml. water with 1.5 g. iron powder and 0.75 g. ferrous sulfate for 3 hours. The mixture is filtered and the filtrate concentrated to a small volume, and diluted with water. The white solid is collected and recrystallized from ethanol, yielding pure 2-amino-4-methylsulfinyl-1-(3-methoxycarbonyl-2-thioureido)-benzene.

reactant | 1-(3-methoxycarbonyl-2-thioureido)-4-methylsulfinyl-2-nitrobenzene | COC(=O)NC(NC1=C(C=C(C=C1)S(=O)C)[N+](=O)[O-])=S | C10H11N3O5S2
reactant | methanol | CO | CH4O
catalyst | iron | [Fe] | Fe
solvent | water | O | H2O
product | 2-amino-4-methylsulfinyl-1-(3-methoxycarbonyl-2-thioureido)-benzene | NC1=C(C=CC(=C1)S(=O)C)NC(=S)NC(=O)OC | C10H13N3O3S2
